US04337125
The electrolyte was 2.9 g. tetramethylammonium chloride in 60 ml anhydrous ethanol. The electrolysis was carried out at 35° C. for 88 hours at 6.5 v. to give 0.1 a current. Gas chromatographic analysis of the red-brown reaction liquor showed that both triethyl phosphate and triethyl phosphite were formed.

reactant | triethyl phosphate | P(=O)(OCC)(OCC)OCC | C6H15O4P
catalyst | tetramethylammonium chloride | [Cl-].C[N+](C)(C)C
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
